US08735424B2
A solution of 6-chloro-1,7-naphthyridin-4-yl trifluoromethanesulfonate (1.0 equiv.), 6-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-amine (1.0 equiv.) and Pd(dppf)Cl2—CH2Cl2 (0.1 equiv.) in 3:1 DME/2M Na2CO3 was heated in a microwave at 100° C. for 15 minutes. Upon cooling, the solution was partitioned between EtOAc and Na2CO3(sat.) washed further with NaCl(sat.), dried over MgSO4, concentrated and purified by silica gel chromatography (2-4% MeOH/CH2Cl2 w/0.1% DIEA eluant) to yield tert-butyl 4-(6-chloro-1,7-naphthyridin-4-yl)-6-methylpyridin-2-amine (17%). LC/MS=271.0 (M+H), LC=1.81 min.

reactant | 6-chloro-1,7-naphthyridin-4-yl trifluoromethanesulfonate | 1.0 equiv. | FC(S(=O)(=O)OC1=CC=NC2=CN=C(C=C12)Cl)(F)F | C9H4ClF3N2O3S
reactant | 6-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-amine | 1.0 equiv. | CC1=CC(=CC(=N1)N)B1OC(C(O1)(C)C)(C)C | C12H19BN2O2
catalyst | Pd(dppf)Cl2 CH2Cl2 | 0.1 equiv. | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
solvent | DME | 2M | COCCOC | C4H10O2
product | tert-butyl 4-(6-chloro-1,7-naphthyridin-4-yl)-6-methylpyridin-2-amine | 17% | C(C)(C)(C)C=1C(=NC(=CC1C1=CC=NC2=CN=C(C=C12)Cl)C)N | C18H19ClN4
